Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Ace Inhibitors / Plavix / Percocet
 
Attending: ___.
 
Chief Complaint:
Abdominal Aortic Aneurysm
 
Major Surgical or Invasive Procedure:
Endovascular Aneurysm Repair

 
History of Present Illness:
Mr. ___ is a pleasant ___ with a large infrarenal abdominal 
aortic aneurysm.  He had some angulation of his infrarenal neck 
and significant tortuosity of his iliac arteries with 
calcification.  He was deemed to be a better candidate for 
endovascular repair than open repair.  Because of the complexity 
of the case and different skill sets, 2 attending surgeons were 
required.

 
Past Medical History:
5.5cm AAA, Aflutter, CAD (s/p CABGx2 for MI in ___, s/p stents 
for occluded SVG-LAD, SVG-OMI grafts ___, HTN, HLD, chronic 
LBP, OA, diverticulitis, bladder cancer , prostate cancer 

PSH: B/L IHR (___), L IHR (___), RCR (___), b/l 
cataract extraction (___)
 
Social History:
 
Physical Exam:
Tmax 98.9, Tcurrent 98.3, HR 74, BP 99/50, RR 18, O2 sat 96 rma
AO x 3, NAD
AT/NC, EOMI, PERRLA
CTAB
RRR
No groin site hematomas, no abd TTP or distention. 
R p/x/p/d, L p/x/p/d
wwp, no edema, no cyanosis

 
Pertinent Results:
Cardiovascular Report ECG Study Date of ___  8:59:12 AM 
 
  
Sinus tachycardia with 2:1 block. Non-specific anterior ST-T 
wave changes. 
Poor R wave progression, likely a normal variant. Cannot exclude 
prior 
anteroseptal myocardial infarction. Compared to the previous 
tracing of ___ 
findings are similar. Clinical correlation is suggested.  
  
 
Read by: ___. 
 
  ___ Axes 
Rate PR QRS QT/QTc P QRS T 
73 254 92 388/410 35 -14 23 
 

___
INDICATION:  ___ man status post EVAR with postop nausea 
and ileus. 
  
COMPARISONS:  CTA abdomen and pelvis from ___. 
  
TECHNIQUE:  Portable supine and left lateral decub radiographs 
are provided. 
  
FINDINGS:  There is a non-specific bowel gas pattern with air 
within multiple 
loops of colon.  There is no free air.  Aortobiiliac bypass 
graft is 
visualized.  Surgical clips at the right femoral region.  
Osseous structures 
are show notable degenerative changes at the left hip and 
left-convex 
scoliosis.  Visualized lung bases are clear. 
  
IMPRESSION:  Nonspecific bowel gas pattern with no evidence of 
obstruction or 
free air. 
  
The study and the report were reviewed by the staff radiologist. 

  
___. ___ 
___. ___ 

___ 06:45AM BLOOD WBC-8.7 RBC-3.54* Hgb-10.9* Hct-33.3* 
MCV-94 MCH-30.9 MCHC-32.8 RDW-15.3 Plt ___
___ 06:00AM BLOOD WBC-6.8 RBC-3.49* Hgb-10.7* Hct-32.8* 
MCV-94 MCH-30.8 MCHC-32.8 RDW-15.5 Plt ___
___ 12:10PM BLOOD WBC-5.3 RBC-3.42* Hgb-10.6* Hct-31.9* 
MCV-93 MCH-31.0 MCHC-33.3 RDW-15.5 Plt ___
___ 06:00AM BLOOD Neuts-77.0* Lymphs-12.0* Monos-9.8 
Eos-1.0 Baso-0.3
___ 12:10PM BLOOD Neuts-73.7* ___ Monos-5.4 Eos-2.2 
Baso-0.3
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD ___
___ 06:00AM BLOOD Plt ___
___ 12:10PM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-98 UreaN-12 Creat-0.7 Na-135 
K-4.2 Cl-102 HCO3-26 AnGap-11
___ 06:00AM BLOOD Glucose-129* UreaN-11 Creat-0.5 Na-134 
K-3.8 Cl-103 HCO3-27 AnGap-8
___ 12:10PM BLOOD Glucose-109* UreaN-12 Creat-0.7 Na-139 
K-3.8 Cl-110* HCO3-24 AnGap-9
___ 08:55PM BLOOD CK(CPK)-44*
___ 12:30PM BLOOD CK(CPK)-43*
___ 06:00AM BLOOD CK(CPK)-39*
___ 12:10PM BLOOD CK(CPK)-35*
___ 06:45AM BLOOD Calcium-9.1 Phos-2.3* Mg-2.0
___ 06:00AM BLOOD Calcium-8.0* Phos-2.6* Mg-2.2
___ 12:10PM BLOOD Calcium-8.0* Phos-2.9 Mg-1.5*
___ 11:15AM BLOOD pO2-219* pCO2-32* pH-7.43 calTCO2-22 Base 
XS--1
___ 10:17AM BLOOD Type-ART pO2-220* pCO2-37 pH-7.40 
calTCO2-24 Base XS-0
___ 09:12AM BLOOD Type-ART pO2-249* pCO2-35 pH-7.47* 
calTCO2-26 Base XS-2 Intubat-INTUBATED
___ 11:15AM BLOOD Glucose-89 Lactate-1.0 Na-134 K-3.5 
Cl-111*
___ 10:17AM BLOOD Glucose-94 Lactate-1.0 Na-134 K-3.7 
Cl-109*
___ 09:12AM BLOOD Glucose-93 Lactate-0.9 Na-135 K-3.9 
Cl-107
___ 11:15AM BLOOD Hgb-10.0* calcHCT-30 O2 Sat-99 COHgb-0 
MetHgb-0
___ 10:17AM BLOOD Hgb-10.1* calcHCT-30
___ 09:12AM BLOOD Hgb-9.8* calcHCT-29
___ 11:15AM BLOOD freeCa-1.04*
___ 09:12AM BLOOD freeCa-1.16
 
Brief Hospital Course:
The patient was admitted to the vascular surgery service on 
___ for evaluation and treatment of an abdominal aortic 
aneurysm. He successfully underwent and tolerated an 
endovascular repair. He was discharged from the PACU and 
admitted to the floor in good condition. For details of the 
procedure, refer to the operative note.  Below is a brief 
hospital course by systems. 

Neuro: The patient's pain was controlled with tylenol with 
codeine.   

CV:  On POD #1, the patient experienced a brief episode of 
bradycardia into the 40-50s range. The patient was otherwise 
stable from a cardiovascular 
standpoint;vital signs were routinely monitored and home 
medications were restarted at the appropriate time.
 
Pulmonary:  No active issues
 
GI/GU/FEN: 
The patient's diet was regular. His intake and output were 
closely monitored, and IVF were discontinued at the appropriate 
time.  On POD #1, patient experienced some nausea with emesis, 
KUB showed no signs of an ileus. Nausea improved.  Patients 
doxazosin dose was decreased to 1mg while in hospital. 
Electrolytes were routinely followed during this 
hospitalization. 

ID: The patient's white blood count and fever curves were 
closely watched for signs of infection. He was afebrile 
throughout his hospitalization.
 
Hematology:  The patient's complete blood count was examined 
routinely; no transfusions were required during this stay. 
Patients warfarin was held until POD #2.  He was discharged with 
instructions to continue his routine regimen and to follow up to 
have his INR checked with his PCP

___: No active issues.

Ambulation was encouraged once deemed appropriate and patient 
worked with physical therapy.  A walker device was recommended 
for when patient experienced hip pain.

At the time of discharge, POD #2 the patient was doing well, 
afebrile with stable vital signs.  The patient was tolerating a 
regular diet, voiding without assistance, and pain was well 
controlled.  He worked with physical therapy and they 
were satisfied with his progress and felt he was safe to go 
home. Patient went home with services and was instructed to 
follow up in ___ after getting an 
abdominal CT scan.  He was also instructed to follow up in with 
his cardiologist.

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from webOMR.
1. Doxazosin 1 mg PO HS 
2. Zolpidem Tartrate 5 mg PO HS 
3. Atenolol 12.5 mg PO DAILY 
4. Simvastatin 80 mg PO DAILY 
5. Nitroglycerin SL 0.4 mg SL PRN angina 
6. Acetaminophen w/Codeine ___ TAB PO Q6H:PRN pain 
7. Aspirin 81 mg PO DAILY 
8. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1. Acetaminophen w/Codeine ___ TAB PO Q6H:PRN pain 
RX *acetaminophen-codeine 300 mg-30 mg 1 to 2 tablet(s) by mouth 
every 4 to 6 hours Disp #*30 Tablet Refills:*0
2. Aspirin 81 mg PO DAILY 
3. Atenolol 12.5 mg PO DAILY 
4. Doxazosin 1 mg PO HS 
5. Simvastatin 80 mg PO DAILY 
6. Zolpidem Tartrate 5 mg PO HS 
7. Nitroglycerin SL 0.4 mg SL PRN angina 
8. Vitamin D ___ UNIT PO DAILY 
9. Warfarin 1 mg PO DAILY 
Take 1 tablet on ___ and ___. Take 2 tablets on 
___, and ___. 
RX *warfarin 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Abdominal Aortic Aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent. Requires walker when 
experiencing pain in hip.

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Endovascular Abdominal Aortic Aneurysm (AAA) Discharge 
Instructions

Medications:
•Take Aspirin 325mg (enteric coated) once daily 
•Do not stop Aspirin unless your Vascular Surgeon instructs you 
to do so. 
•Continue all other medications you were taking before surgery, 
unless otherwise directed
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

What to expect when you go home:
It is normal to have slight swelling of the legs:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•When you go home, you may walk and go up and down stairs
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•After 1 week, you may resume sexual activity
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate
•No driving until you are no longer taking pain medications
•Call and schedule an appointment to be seen in ___ weeks for 
post procedure check and CTA 

What to report to office:
•Numbness, coldness or pain in lower extremities 
•Temperature greater than 101.5F for 24 hours
•New or increased drainage from incision or white, yellow or 
green drainage from incisions
•Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site or 
incision)
•Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office. If bleeding does not stop, call ___ for 
transfer to closest Emergency Room. 

 
Followup Instructions:
___